US09227978B2
tert-Butyl 4-(4-bromo-1H-pyrrole-2-carbonyl)piperazine-1-carboxylate
To a mixture of 4-bromo-1H-pyrrole-2-carboxylic acid (800 mg, 4.21 mmol), tert-butylpiperazine-1-carboxylate (822 mg, 4.42 mmol), BOP (2.2 g, 5.05 mmol) in DMF (5 mL), DIEA (1.63 g, 12.63 mmol) was added and the resulting mixture was stirred at room temperature for 1 h. The mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over Na2SO4 and concentrated in vacuo to afford the crude product (920 mg, 61% yield) which was used directly in the next step without purification.

reactant | 4-bromo-1H-pyrrole-2-carboxylic acid | 4.21 mmol, 800 mg | BrC=1C=C(NC1)C(=O)O | C5H4BrNO2
reactant | tert-butylpiperazine-1-carboxylate | 4.42 mmol, 822 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | BOP | 5.05 mmol, 2.2 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIEA | 12.63 mmol, 1.63 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-Butyl 4-(4-bromo-1H-pyrrole-2-carbonyl)piperazine-1-carboxylate | 920 mg, 61% yield | BrC=1C=C(NC1)C(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C14H20BrN3O3
